US08080541B2
Intermediate P: cis-(2-Pyrrolidin-1-yl-cyclopentyl)-carbamic acid tert-butyl ester
The title compound, brown oil, MS: m/e=255.3 [(M+H)+], was prepared in accordance with the general method of intermediate E from [(1RS,2SR)-2-aminocyclopentyl-carbamic acid 1,1-dimethylethyl ester (CAS 365996-19-6) and 1,4-dibromobutane.

reactant | (1RS,2SR)-2-aminocyclopentyl-carbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(NC1C(CCC1)N)=O | C10H20N2O2
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | cis-(2-Pyrrolidin-1-yl-cyclopentyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1[C@H](CCC1)N1CCCC1)=O | C14H26N2O2
